Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hematochezia
 
Major Surgical or Invasive Procedure:
Colonoscopy

 
History of Present Illness:
Ms. ___ is a ___ female with the past medical
history of migraine headaches, colon adenoma, vitamin D
deficiency who presents with rectal bleeding.

Patient underwent her routine follow up colonoscopy last 
___
given her family history of colon cancer and personal history of
colon polyps. She had two polyps removed, one in the ascending
colon was a sessile serrated adenoma, and the other was
hyperplastic. She tolerated the procedure well initially, but
started experiencing hematochezia on ___ evening. Described 
is
as blood and clots passing with minimal bowel movement.
significant amount, filling the toilet bowl. She denied any
abdominal pain, nausea, or vomiting. No fevers, chills, recent
travel, no OTC NSAID use. 

In the ED, her hemodynamics were stable, but she had 
leukocytosis
to 12.9 and H&H drop from her baseline of ___ to 8.7-9.7. She
was transfused one unit of pRBC (post-transfusion CBC not 
drawn).
She was given 1L of NS and 4 mg IV Zofran. GI was consulted who
recommended prep followed by colonoscopy. While getting up to 
use
the commode, she felt lightheaded in the ED and fell, lost
consciousness briefly. No seizure like convulsions or post-ictal
confusion noted. CT C-spine was unremarkable. CT head did not
reveal any acute bleeding, but commented on suggestion of
arachnoid cyst at the superior cerebellar cistern. Prominent
ventricular system, hydrocephalus is more likely than central
atrophy.  

No focal weakness, numbness. no visual or auditory changes. No
recent changes in her migraine headaches, less severe and
frequent compared to her childhood years. Usually lasts less 
than
a day, resolves with Excedrin prn. Preceded by aura, sometimes
accompanied by nausea, photophobia, phonophobia. Not one sided 
in
nature, variable in location.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Migraine headaches
Allergic rhinitis
Raynaud's
Vitamin D deficiency
Uterine fibroids
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.

 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 04:24AM BLOOD WBC-8.0 RBC-2.94* Hgb-8.6* Hct-26.1* 
MCV-89 MCH-29.3 MCHC-33.0 RDW-13.5 RDWSD-43.8 Plt ___
___ 04:24AM BLOOD Glucose-84 UreaN-4* Creat-0.6 Na-146 
K-4.2 Cl-109* HCO3-25 AnGap-12
 
Brief Hospital Course:
Ms. ___ is a ___ female with hx of migraine HA, 
colon polyps, who presents with hematochezia

ACUTE/ACTIVE PROBLEMS:
# Hematochezia
# Post polypectomy bleeding from ulceration
# Acute blood loss anemia: likely secondary to ulceration post 
polypectomy from the previous colonoscopy. 
 -GI was consulted, repeat colonoscopy on ___ with 2 endoclips 
placement on ascending colon ulceration seen at the site of 
prior polypectomy. Mild rectal erosion near the prior 
polypectomy site but no active bleeding, no intervention needed. 
Patient was transfused 1 unit of pRBC in the ED for Hgb drop 
from ___ to
8.7, and her blood counts remained stable in the ___ range. 
Patient was not orthostatic upon arrival to the floor, and did 
not have any further bleeding events. 

# Syncope and fall: patient syncopized in the ED while getting 
up and walking to use the commode. likely neurocardiogenic 
syncope in the setting of orthostatic hypotension and blood 
loss. Received IVF and blood cell transfusion in the ED, as 
above. No longer orthostatic after resuscitation. Telemetry with 
no events. EKG with no concerning ST-T segment changes. History 
points towards vasovagal etiology with preceding 
lightheadedness/dizziness, no cardiac symptoms, no seizure like 
activity or post-ictal confusion 

# Possible cerebellar cistern arachnoid cyst and hydrocephalus: 
an incidental finding while getting CT head for fall and 
syncope. Patient was neurologically intact with no focal signs 
or symptoms. Touched base with neurosurgery service who reviewed 
the head CT findings and thought it may be an overcall from 
radiology, but agreed with obtaining outpatient brain MRI for 
further investigation. per NSGY, no urgent inpatient workup 
necessary. 

CHRONIC/STABLE PROBLEMS:
# Migraine headaches:
 -asymptomatic at this time. takes Excedrin prn at home

# Allergic rhinitis: cetirizine prn

TRANSITIONAL PROBLEMS:
Patient will need a brain MRI to follow up on incidental head CT 
finding of possible cerebellar cistern arachnoid cyst

Follow up CBC at the time of PCP appointment
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Excedrin Migraine (aspirin-acetaminophen-caffeine) 250-250-65 
mg oral Q8H:PRN 
2. Vitamin D ___ UNIT PO DAILY 
3. Cetirizine 10 mg PO DAILY:PRN allergies 

 
Discharge Medications:
1.  Cetirizine 10 mg PO DAILY:PRN allergies  
2.  Excedrin Migraine (aspirin-acetaminophen-caffeine) 
250-250-65 mg oral Q8H:PRN  
3.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hematochezia
Post-polypectomy bleeding
Acute blood loss anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 
You were admitted for lower GI bleeding secondary to 
post-polypectomy bleeding. Colonoscopy was performed which 
showed an ulcer in the ascending colon at the site of prior 
polypectomy, and mild shallow erosion in the rectum at the site 
of rectal polypectomy. The ulcer that was bleeding in the 
ascending colon was endo-cliped. You were also treated with IV 
fluids, red blood cell transfusion. You will need to follow up 
with your primary care physician for an outpatient MRI of your 
brain as we discussed previously.
 
Followup Instructions:
___